* Z:\home\mariano\scripts\pytc2\docs\notebooks\schematics\lattice_2ord_delay_eq.asc
V1 N001 0 0 AC 1 0 Rser=0
R1 1 N001 {R}
R2 4 3 {R}
L1 1 3 {lv1} Rser=0
L2 1 N002 {lv2} Rser=0
C1 3 1 {cv1}
C2 4 N002 {cv2}
L3 0 4 {lv1} Rser=0
L4 0 N003 {lv2} Rser=0
C3 4 0 {cv1}
C4 3 N003 {cv2}
.net I(R2) V1
.ac dec 100 .001 100
* V_o/V1 = (s**2 - a*s + b)/(s**2 + a*s + b)
.param a=w0/Q b = w0**2
.param w0=1 Q = sqrt(2)/2 R=1
.param lv1=a/b*R cv1=1/a/R lv2=1/a*R cv2=a/b/R
.backanno
.end
